US04088644
A. Preparation of N-carbobenzyloxy-N-ethyl-α-amino-acetophenone
Add, in a dropwise manner, 20.4 g. of carbobenzyloxy chloride to a stirred ice-cooled mixture of 16.3 g. of N-ethyl-α-aminoacetophenone hydrochloride and 12.7 g. of sodium carbonate in 125 ml. of water and maintain the reaction temperature at about 20°-25° C. When the addition is complete, stir for one hour at room temperature and extract the product with ether. Wash the ether extract successively with 5% hydrochloric acid, water saturated aqueous sodium bicarbonate and finally with water. Dry over magnesium sulfate and filter. Remove the ether in vacuo and obtain the product of this step.

reactant | carbobenzyloxy chloride | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
reactant | N-ethyl-α-aminoacetophenone hydrochloride | Cl.C(C)NCC(=O)C1=CC=CC=C1
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | N-carbobenzyloxy-N-ethyl-α-amino-acetophenone | C(=O)(OCC1=CC=CC=C1)N(CC(=O)C1=CC=CC=C1)CC | C18H19NO3
